US08071600B2
Triethylamine (0.28 ml, 2.0 mmol) was added to a dichloromethane solution (15 ml) of 1-benzo[b]thiophen-4-yl-4-[3-(piperidin-4-yloxy)-propyl]-piperazine (0.45 g, 1.25 mmol) and the mixture was cooled in an ice bath. To this, acetyl chloride (0.1 ml, 1.4 mmol) was added and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, which was then extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and thereafter concentrated under reduced pressure. The residue was purified by silica gel column chromatography (dichloromethane:methanol=30:1). The purified product was concentrated under reduced pressure. To the residue, 0.5 N hydrochloride-methanol solution (3 ml) was added. The crystal produced was obtained by filtration and dried to obtain 1-benzo[b]thiophen-4-yl-4-[3-(1-acetylpiperidin-4-yloxy)propyl]piperazine hydrochloride as white powder (0.36 g, 66% yield).

reactant | Triethylamine | 2.0 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
reactant | 1-benzo[b]thiophen-4-yl-4-[3-(piperidin-4-yloxy)-propyl]-piperazine | 1.25 mmol, 0.45 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2CCNCC2 | C20H29N3OS
reactant | acetyl chloride | 1.4 mmol, 0.1 ml | C(C)(=O)Cl | C2H3ClO
solvent | Water | O | H2O
product | 1-benzo[b]thiophen-4-yl-4-[3-(1-acetylpiperidin-4-yloxy)propyl]piperazine hydrochloride | 0.36 g, 66% yield | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2CCN(CC2)C(C)=O | InChI=1S/C22H31N3O2S.ClH/c1-18(26)24-10-6-19(7-11-24)27-16-3-9-23-12-14-25(15-13-23)21-4-2-5-22-20(21)8-17-28-22;/h2,4-5,8,17,19H,3,6-7,9-16H2,1H3;1H
